US08084449B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-2,6-pyridinedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide (40 mg, 0.062 mmol), 1,1-dimethylethyl 1-piperazinecarboxylate (115.37 mg, 0.619 mmol, 10 eq) and acetic acid (3.55 μL, 0.062 mmol, 1 eq) were dissolved in DMSO (1.5 mL). The mixture was stirred in a VX-2500 Multi-Tube Vortexer overnight at room temperature. MP-triacetoxyborohydride (195 mg, 0.482 mmol, 7.78 eq) was then added and the mixture was stirred again in the VX-2500 Multi-Tube Vortexer overnight at room temperature. The reaction mixture was filtered through a polypropylene cartridge (10 mL tube) on a Bohdan Miniblock (Artisian Scientific, Champaign, Ill., USA, http://www.artisan-scientific.com/51413.htm) in a reaction tube and concentrated in a Glas-Col evaporator. Methanol (2 mL) and hydrochloric acid (5 μL) were then added and the vial containing the reaction mixture was closed and stirred in a Glas-Col evaporator over the weekend at 60° C. The reaction mixture was then concentrated and purified by Gilson HPLC with a water-acetonitrile with 0.1% TFA buffer. The desired product fractions were combined, filtered through amine cartouche (500 mg) on a Bohdan Miniblock and concentrated in a Glas-Col evaporator, giving 16.4 mg (41.1%) of the title compound. LC-MS m/z 716 (M+H)+, 1.25 min (ret time).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide | 0.062 mmol, 40 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)C=O)CC | C37H39N7O4
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 0.619 mmol, 115.37 mg, 10 eq | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | acetic acid | 0.062 mmol, 3.55 μL, 1 eq | C(C)(=O)O | C2H4O2
reactant | triacetoxyborohydride | 0.482 mmol, 195 mg, 7.78 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-2,6-pyridinedicarboxamide | 16.4 mg, 41.1% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CN2CCNCC2)CC | C41H49N9O3
